* IR Spoke Sensor - component-valued custom receiver and remote LED board
* Shared values are generated from config/system.json.
.include generated_params.inc

.param SPOKE_PERIOD=4.135121m
.param SPOKE_BLOCK=168.48u
.param RCABLE=0.1284
.param RCONTACT=0.03

V3V3 3V3 0 {VSUP}
VTX TX_GPIO 0 PULSE(0 {VSUP} 0 2n 2n {0.5/FCARRIER} {1/FCARRIER})

* Main-board low-side driver and two contacts/conductors of the 600 mm AWG28
* cable. JTX is the board connector; JLED is the remote emitter-board connector.
RBASE TX_GPIO QB 1k
QTX LED_K_MAIN QB 0 S8050
RCONTACT_K LED_K_MAIN JTX_K {RCONTACT}
RCABLE_K JTX_K JLED_K {RCABLE}
RCONTACT_A 3V3 JTX_A {RCONTACT}
RCABLE_A JTX_A JLED_A {RCABLE}
RLED JLED_A LED_A 39
DLED LED_A JLED_K IRLED

* Wheel mask: 5 % residual optical transmission during spoke blockage.
BSPOKE SPOKE 0 V=if(mod(time,{SPOKE_PERIOD})<{SPOKE_BLOCK},0.05,1)
BCARRIER CARRIER 0 V=if(V(LED_A,JLED_K)>0.7,1,0)

* VEMD10940FX01: reverse-biased 3.3 pF typ. PIN photodiode with dark current.
RVR_TOP 3V3 VREF 10k
RVR_BOT VREF 0 10k
CVREF VREF 0 1u
* Reverse photocurrent flows from cathode into the TIA summing node.
BPHOTO PD_K PD_A I={IPHOTO_AMBIENT}+{IPHOTO_SIGNAL}*V(CARRIER)*V(SPOKE)
IDARK PD_K PD_A DC 1n
CPD PD_A PD_K 3.3p
VPD_BIAS 3V3 PD_K 0

* TLV9062 channel A: 33k || 120p TIA around 1.65 V.
XU1A TIA VREF PD_A 3V3 0 TLV9062_TYP
RF_TIA TIA PD_A {RF_TIA}
CF_TIA TIA PD_A {CF_TIA}

* TLV9062 channel B: AC coupling/high-pass plus gain of 57 and 60 kHz pole.
CAC TIA BP_IN {C_AC}
RAC BP_IN VREF {R_AC}
XU1B BANDPASS BP_IN BP_NEG 3V3 0 TLV9062_TYP
RG BP_NEG VREF {RG_GAIN}
RF BANDPASS BP_NEG {RF_GAIN}
CF BANDPASS BP_NEG {CF_GAIN}

* TLV7011: fixed VREF threshold. 10k signal input and 1M positive feedback
* create ~32.7 mV external hysteresis; the part adds 4.2 mV typical internally.
RCOMP_IN BANDPASS COMP_PLUS {R_COMP_IN}
RHYST GPIO_RAW COMP_PLUS {R_HYST}
BCOMP COMP_IDEAL 0 V={VSUP}/2*(1+tanh(350*(V(COMP_PLUS)-V(VREF))))
RDELAY COMP_IDEAL GPIO_RAW 1k
CDELAY GPIO_RAW 0 {TPD_COMP/1000}
RGPIO GPIO_RAW GPIO_RMT 100

* A compact finite-GBW approximation. A0=100k and dominant pole=100 Hz gives
* the TLV9062 typical 10 MHz gain-bandwidth value from its current datasheet.
.subckt TLV9062_TYP OUT INP INN VCC VSS
EERR ERR VSS INP INN 100k
RDOM ERR INT 1k
CDOM INT VSS 1.591549u
BOUT OUT VSS V=limit(V(INT),0.04,V(VCC)-0.04)
.ends TLV9062_TYP

.model S8050 NPN(BF=180 VAF=80 IS=1e-13 CJE=20p CJC=8p TF=20n)
.model IRLED D(IS=1e-20 N=1.8 RS=2 CJO=20p TT=10n BV=5 IBV=10u)

.tran 0.1u 16m
.control
run
wrdata output/spice_waveforms.csv time v(TX_GPIO) v(SPOKE) v(TIA) v(BANDPASS) v(GPIO_RAW)
meas tran TIA_MIN min v(TIA) from=2m to=16m
meas tran TIA_MAX max v(TIA) from=2m to=16m
meas tran BP_PP pp v(BANDPASS) from=2m to=16m
quit
.endc
.end
